US07598391B2
1-(1-Acetyl-pyrrolidin-3 (R)-yl)-1-cyclohexyl-3-[5-(2-pyrrolidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-1-[1-(acetyl)-pyrrolidin-3 (R)-yl]-urea, dithioerythritol and N-(2-chloroethyl)pyrrolidine.

reactant | 1-cyclohexyl-3-(5-thiocyanato-thiazol-2-yl)-1-[1-(acetyl)-pyrrolidin-3 (R)-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@H]1CN(CC1)C(C)=O | C17H23N5O2S2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | N-(2-chloroethyl)pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 1-(1-Acetyl-pyrrolidin-3 (R)-yl)-1-cyclohexyl-3-[5-(2-pyrrolidin-1-yl-ethylsulfanyl)-thiazol-2-yl]-urea | C(C)(=O)N1C[C@@H](CC1)N(C(=O)NC=1SC(=CN1)SCCN1CCCC1)C1CCCCC1 | C22H35N5O2S2
